US04859684
(a-5) A mixture of 5.5 parts of (+)-4-[[2-(methylthio)-1H-imidazol-1-yl]-phenylmethyl]-2-nitrobenzenamine monohydrochloride, 24 parts of concentrated hydrochloric acid, 2 parts of a solution of thiophene in methanol 4%, 120 parts of methanol and 100 parts of water was hydrogenated at normal pressure and at 0° C. with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was taken up in water and treated with an ammonium hydroxide solution. The product was extracted three times with dichloromethane. The combined extracts were dried, filtered and evaporated, yielding 5.6 parts (100%) of (+)-4-[[2-(methylthio)-1H-imidazol-1-yl]phenylmethyl]-1,2-benzendiamine as a residue (int. 143).

reactant | (+)-4-[[2-(methylthio)-1H-imidazol-1-yl]-phenylmethyl]-2-nitrobenzenamine monohydrochloride | Cl.CSC=1N(C=CN1)C(C1=CC(=C(C=C1)N)[N+](=O)[O-])C1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | water | O | H2O
product | (+)-4-[[2-(methylthio)-1H-imidazol-1-yl]phenylmethyl]-1,2-benzendiamine | 100% | CSC=1N(C=CN1)C(C=1C=C(C(=CC1)N)N)C1=CC=CC=C1 | C17H18N4S
